US05246948
To a solution of 1.40 g (5.40 mmol) of 4-[3-(N-2-pyridylmethylamino)propylthio]pyridine and 0.91 ml (6.48 mmol) of triethylamine in 10 ml of methylene chloride, 0.51 ml (6.48 mmol) of trifluoroacetic anhydride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/acetone=10:1) to obtain 390 mg of 4-[3-(N-2-pyridylmethyl-N-trifluoroacetylamino)propylthio]pyridine (yield: 20.4%, yellow oil).

reactant | 4-[3-(N-2-pyridylmethylamino)propylthio]pyridine | 5.40 mmol, 1.40 g | N1=C(C=CC=C1)CNCCCSC1=CC=NC=C1 | C14H17N3S
reactant | triethylamine | 6.48 mmol, 0.91 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 6.48 mmol, 0.51 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-2-pyridylmethyl-N-trifluoroacetylamino)propylthio]pyridine | 390 mg, yield: 20.4% | N1=C(C=CC=C1)CN(C(C(F)(F)F)=O)CCCSC1=CC=NC=C1 | C16H16F3N3OS
